US07148234B2
STEP 1. benzyl ethyl 2-(6-nitro-3-pyridinyl)malonate
To a mixture of 5-bromo-2-nitropyridine (8.66 g, 42.7 mmol) and benzyl ethyl malonate (9.50 g, 42.7 mmol) in tetrahydrofuran (160 ml) and dimethylformamide (40 ml) was added K2CO3 (5.90 g, 42.7 mmol) and stirred under reflux temperature for 20 h. The mixture was diluted with water (11) and extracted with ethyl acetate (3×200 ml). The organic layer was washed with brine, dried (MgSO4) and concentrated to give 5.26 g of title compound as orange oil.

reactant | 5-bromo-2-nitropyridine | 42.7 mmol, 8.66 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | benzyl ethyl malonate | 42.7 mmol, 9.50 g | C(CC(=O)OCC)(=O)OCC1=CC=CC=C1 | C12H14O4
reactant | K2CO3 | 42.7 mmol, 5.90 g | C(=O)([O-])[O-].[K+].[K+]
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzyl ethyl 2-(6-nitro-3-pyridinyl)malonate | 5.26 g | [N+](=O)([O-])C1=CC=C(C=N1)C(C(=O)OCC1=CC=CC=C1)C(=O)OCC | C17H16N2O6
